US07745641B2
4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (140 mg, 0.357 mmol) was dissolved in acetonitrile (7 mL), and the solution was added with 1-(2-hydroxyethyl)piperazine (186 mg, 1.43 mmol), acetic acid (0.409 mL, 7.14 mmol) and sodium triacetoxyborohydride (151 mg, 0.714 mmol), followed by stirring at room temperature for 1.3 hours. The mixture was added with sodium triacetoxyborohydride (151 mg, 0.714 mmol) and further stirred for 3.8 hours. Further, the mixture was added with sodium triacetoxyborohydride (76.0 mg, 0.357 mmol) and stirred for 0.6 hours. The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-hydroxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone (143 mg, yield 79%).

reactant | 4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.357 mmol, 140 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H20N2O5
reactant | 1-(2-hydroxyethyl)piperazine | 1.43 mmol, 186 mg | OCCN1CCNCC1 | C6H14N2O
reactant | acetic acid | 7.14 mmol, 0.409 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.714 mmol, 151 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.714 mmol, 151 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.357 mmol, 76.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 4-hydroxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone | 143 mg, yield 79% | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C28H34N4O5
